US05693651
(4) 5-[[7-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-quinolyl]methyl]-2-iminothiazolidin-4-one
In ethanol (10 mL) was dissolved the crude residue (300 mg) of methyl 2-bromo-3-[7-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-quinolyl]propionate. The solution was heated under reflux for 5 hours after addition of thiourea (47 mg, 0.62 mmol.) and sodium acetate (51 mg, 0.62 mmol.).

reactant | methyl 2-bromo-3-[7-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-quinolyl]propionate | BrC(C(=O)OC)CC=1C=NC2=CC(=CC=C2C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C24H21BrN2O4
reactant | thiourea | 0.62 mmol, 47 mg | NC(=S)N | CH4N2S
reactant | sodium acetate | 0.62 mmol, 51 mg | C(C)(=O)[O-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-[[7-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-quinolyl]methyl]-2-iminothiazolidin-4-one | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C2C=C(C=NC2=C1)CC1C(NC(S1)=N)=O | C24H20N4O3S
